US08084604B2
N-(2-Bromo-6-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea (300 g) is suspended in isobutyronitrile (1.2 l) under a nitrogen atmosphere, then triethylamine (210 ml), bis(acetonitrile)dichloropalladium (7.5 g), tris-(o-tolyl)phosphine (18.0 g) and methyl acrylate (210 ml) are added in this sequence. The resulting suspension is stirred under reflux (ca. 102° C.) for 16 h and then cooled to room temperature. Water (1.2 l) is added and the mixture is stirred at room temperature for 1 h, then filtered off with suction and washed with water/methanol (1:1, 300 ml) and acetonitrile (100 ml). The residue is dried overnight at 45° C. in the VDO using entraining nitrogen. A total of 208 g of methyl{8-fluoro-3-[2-methoxy-5-(trifluoromethyl)phenyl]-2-oxo-1,2,3,4-tetrahydroquinazolin-4-yl}acetate are obtained as a solid, corresponding to 68.5% of theory.

reactant | N-(2-Bromo-6-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea | 300 g | BrC1=C(C(=CC=C1)F)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C15H11BrF4N2O2
reactant | triethylamine | 210 ml | C(C)N(CC)CC | C6H15N
reactant | tris-(o-tolyl)phosphine | 18.0 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | methyl acrylate | 210 ml | C(C=C)(=O)OC | C4H6O2
solvent | isobutyronitrile | 1.2 l | C(C(C)C)#N | C4H7N
catalyst | bis(acetonitrile)dichloropalladium | 7.5 g | CC#N.CC#N.Cl[Pd]Cl
solvent | Water | 1.2 l | O | H2O
product | methyl{8-fluoro-3-[2-methoxy-5-(trifluoromethyl)phenyl]-2-oxo-1,2,3,4-tetrahydroquinazolin-4-yl}acetate | 208 g | COC(CC1N(C(NC2=C(C=CC=C12)F)=O)C1=C(C=CC(=C1)C(F)(F)F)OC)=O | C19H16F4N2O4
